US06878722B2
Step 30b) A mixture of 1-butyl-cyclopropylsulfonylamine tert-butylcarbamate (1.2 g, 4.3 mmol) and TFA (2 mL, 26 mmol) was stirred at rt overnite. The solvent was removed in vacuo and the residue was chromatographed over SiO2 eluting with EtOAC/Hexanes (0% to 50%) to afford 1-butyl-cyclopropanesulfonic acid amide, as a white solid (0.69 g, 90%): 1H NMR (methanol-d4) □ ppm 0.83 (m, 2H), 0.92 (t, J=7.32 Hz, 2H), 1.24 (m, 2H), 1.34 (m, 2H), 1.47 (m, 2H), 1.87 (m, 2H); 1CNMR (methanol-d4) □ ppm 12.09, 14.25, 23.93, 29.82, 32.38, 41.92.

reactant | 1-butyl-cyclopropylsulfonylamine tert-butylcarbamate | 4.3 mmol, 1.2 g | C(C)(C)(C)NC(O)=O.C(CCC)C1(CC1)S(=O)(=O)N
reactant | TFA | 26 mmol, 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 1-butyl-cyclopropanesulfonic acid amide | C(CCC)C1(CC1)S(=O)(=O)N | C7H15NO2S
